US07288541B2
To a solution of 40 mg (0.12 mmol) of tert-butyl (1S)-1-{(1S)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate & tert-butyl (1S)-1-{(1R)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate in 1 mL dioxane was added 5 mL of 4M hydrochloric acid in dioxane. The reaction mixture was stirred for 2 h before being concentrated under reduced pressure. The residue was dissolved in 1 mL of N,N-dimethylformamide before 0.081 mL (0.47 mmol) of N,N-diisopropylethylamine and 56 mg (0.12 mmol) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate were added. The reaction mixture was stirred at room temperature for 18 h, diluted with ethyl acetate, washed with 1M sodium hydroxide and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate:hexanes (2:3) to afford 40 mg (59%) of (1S)-2,2-dimethyl-1-({3-[4(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1S)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate & (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1R)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate. ES-LCMS m/z 602 (M+Na).

reactant | tert-butyl (1S)-1-{(1S)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate | 0.12 mmol, 40 mg | FC1=CC=CC(=N1)NC[C@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C17H28FN3O3
reactant | tert-butyl (1S)-1-{(1R)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate | FC1=CC=CC(=N1)NC[C@@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C17H28FN3O3
reactant | hydrochloric acid | 4M, 5 mL | Cl | ClH
reactant | N,N-diisopropylethylamine | 0.47 mmol, 0.081 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-nitrophenyl carbonate | 0.12 mmol, 56 mg | C(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H22F3N3O5
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-2,2-dimethyl-1-({3-[4(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S)-1-{(1S)-2-[(6-fluoro-2-pyridinyl)amino]-1-hydroxyethyl}pentylcarbamate | 40 mg, 59% | FC1=CC=CC(=N1)NC[C@H](O)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C29H37F4N5O3
